US06329389B1
4-Benzyl-N,N-dimethyl-3,4-dihydro-3-oxo-2-quinoxalinecarboxamide
Dimethylamine hydrochloride (0.57 g), WSC (1.33 g) and HOBt (0.86 g) were added to a mixed solution of 4-benzyl-3,4-dihydro-3-oxo-2-quinoxalinecarboxylic acid (1.5 g) in THF (30 ml) and acetonitrile (30 ml), to which was added dropwise triethylamine (2.3 ml) under ice-cooling. The reaction mixture was stirred at room temperature for 15 hours. The precipitated insoluble substances were removed by filtration and the filtrate was concentrated. Water was added to the precipitate, which was extracted with ethyl acetate. The ethyl acetate layer was washed with 1N hydrochloric acid, water, a saturated aqueous sodium hydrogencarbonate solution, and a saturated aqueous sodium chloride solution, then dried and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain the entitled compound (1.47 g).

reactant | Dimethylamine hydrochloride | 0.57 g | Cl.CNC
reactant | WSC | 1.33 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.86 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-benzyl-3,4-dihydro-3-oxo-2-quinoxalinecarboxylic acid | 1.5 g | C(C1=CC=CC=C1)N1C(C(=NC2=CC=CC=C12)C(=O)O)=O | C16H12N2O3
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | triethylamine | 2.3 ml | C(C)N(CC)CC | C6H15N
product | 4-Benzyl-N,N-dimethyl-3,4-dihydro-3-oxo-2-quinoxalinecarboxamide | 1.47 g | C(C1=CC=CC=C1)N1C(C(=NC2=CC=CC=C12)C(=O)N(C)C)=O | C18H17N3O2
